US03997536
5.0 G. of 4-chloro-5-cyano-2-(4-n-propylphenyl)-pyrimidine are boiled under reflux for 1 hour while stirring in 255 ml. of 50% dioxane with 22.4 g. of zinc dust (treated with hydrochloric acid and washed with water). Then, the zinc is separated and washed with dioxane. The filtrate and washings are freed from dioxane in vacuo and the aqueous suspension is extracted with methylene chloride. The extract is dried and concentrated and the residue chromatographed on silica gel. Elution with methylene chloride and methylene chloride/2% acetone yields the 5-cyano-2-(4-n-propylphenyl)-pyrimidine, which is recrystallized from acetone/hexane up to a constant melting point and sublimed at 120° C. in a high vacuum. There are obtained colorless crystals of melting point 125.9°-126.0° C, which on cooling are liquid crystalline (monotropic) at 106.4° C. The substance is identical with the compound obtained according to Example 6.

reactant | 4-chloro-5-cyano-2-(4-n-propylphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)CCC | C14H12ClN3
catalyst | zinc | [Zn] | Zn
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-cyano-2-(4-n-propylphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)CCC | C14H13N3
